US06504047B2
12. Preparation of acetamido-(4-methyl-3-pentenyl)-malonic Acid Diethyl Ester
27.1 g of acetamidomalonic acid diethyl ester are heated for 14 hours with 19.6 g of 5-bromo-2-methyl-2-pentene and 16.6 g of potassium carbonate in 100 ml of MIBK in a water separator. The reaction solution was extracted with 100 ml of water, and the organic phase was concentrated in vacuo. LC-MS analysis of the residue shows that it is a mixture of N-acetyl-D,L-2-amino-6-methyl-5-heptenoic acid ethyl ester (M+H+=228) and acetamido-(4-methyl-3-pentenyl)-malonic acid diethyl ester (M+H+=300) in a ratio of 3:2.

reactant | acetamidomalonic acid diethyl ester | 27.1 g | C(C)OC(C(C(=O)OCC)NC(C)=O)=O | C9H15NO5
reactant | 5-bromo-2-methyl-2-pentene | 19.6 g | BrCCC=C(C)C | C6H11Br
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | MIBK | 100 ml | CC(C)CC(=O)C | C6H12O
product | acetamido-(4-methyl-3-pentenyl)-malonic Acid Diethyl Ester | C(C)OC(C(C(=O)OCC)(CCC=C(C)C)NC(C)=O)=O | C15H25NO5
